US04053615
52.06 Grams of 3-aminomethylpyridine was refluxed with 200 milliliters of methyl acrylate for 96 hours. The excess methyl acrylate was evaporated off to give 137.6 grams of 3-[N,N-di(2-methoxycarbonylethyl)aminomethyl] pyridine.

reactant | 3-aminomethylpyridine | NCC=1C=NC=CC1 | C6H8N2
reactant | methyl acrylate | 200 milliliters | C(C=C)(=O)OC | C4H6O2
product | 3-[N,N-di(2-methoxycarbonylethyl)aminomethyl] pyridine | 137.6 grams | COC(=O)CCN(CCC(=O)OC)CC=1C=NC=CC1 | C14H20N2O4
